data/polar.json
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[cH:1]1[c:8]([N+:16](=[O:12])[O-:22])[cH:2][c:9]([N+:17](=[O:13])[O-:21])[cH:3][c:10]1[N+:18](=[O:14])[O-:23].[cH:4]1[cH:6][c:7]2[c:24]([cH:15][cH:25]1)[CH:20]=[CH:5][CH:19]2[Li:11]>>[CH:1]1([CH:19]2[CH:5]=[CH:20][c:24]3[c:7]2[cH:6][cH:4][cH:25][cH:15]3)[C:8](=[N+:16]([O-:12])[O-:22])[CH:2]=[C:9]([N+:17](=[O:13])[O-:21])[CH:3]=[C:10]1[N+:18](=[O:14])[O-:23].[Li+:11]", "epd": [["Sigma-/Sigma+", [19, 11], [19, 1]], ["Pi-/Pi+", [1, 8], [8, 16]], ["Pi-/LP+", [16, 12], [12]]]}
{"reaction_name": "Iminium Lewis-acid activation", "rsmi": "[CH:4]([CH3:5])=[N+:8]([CH3:6])[CH3:7].[Cl-:9].[F:1][B:10]([F:2])[F:3]>>[CH:4]([CH3:5])=[N+:8]([CH3:6])[CH3:7].[F:1][B-:10]([F:2])([F:3])[Cl:9]", "epd": [["LP-/Sigma+", [9], [9, 10]]]}
{"reaction_name": "Cbz deprotection", "rsmi": "[H:7][H:8].[cH:1]1[cH:5][cH:10][cH:6][cH:2][c:15]1[CH2:3][O:13][C:9]([N:11]([CH3:4])[H:12])=[O:14]>>[C:9](=[O:13])=[O:14].[CH3:4][N:11]([H:7])[H:12].[cH:1]1[cH:5][cH:10][cH:6][cH:2][c:15]1[CH2:3][H:8]", "epd": [["Sigma-/Sigma+", [7, 8], [3, 8]], ["Sigma-/LP+", [9, 11], [11]], ["LP-/Sigma+", [11], [7, 11]], ["LP-/Pi+", [13], [9, 13]], ["Sigma-/LP+", [3, 13], [13]]]}
{"reaction_name": "Oxa-Michael addition", "rsmi": "[C:1]1(=[O:8])[CH:26]=[CH:16][C:23](=[N+:28]([O-:21])[O-:22])[CH:17]=[CH:27]1.[CH3:2][CH2:6][O:5][C:15]([CH:3]=[C:7]([CH3:18])[N:29]=[N:11][C:4](=[O:12])[NH:14][c:19]1[cH:24][cH:9][cH:20][cH:10][cH:25]1)=[O:13]>>[c:1]1([O:8][CH:3]([C:7]([CH3:18])=[N:29][N:11]=[C:4]([O-:12])[NH:14][c:19]2[cH:24][cH:9][cH:20][cH:10][cH:25]2)[C:15]([O:5][CH2:6][CH3:2])=[O:13])[cH:26][cH:16][c:23]([N+:28](=[O:21])[O-:22])[cH:17][cH:27]1", "epd": [["LP-/Pi+", [21], [28, 21]], ["Pi-/Pi+", [23, 28], [16, 23]], ["Pi-/Pi+", [26, 16], [1, 26]], ["Pi-/Sigma+", [8, 1], [8, 3]], ["Pi-/Pi+", [3, 7], [7, 29]], ["Pi-/Pi+", [29, 11], [11, 4]], ["Pi-/LP+", [4, 12], [12]]]}
{"reaction_name": "General nucleophilic addition to an iminium C=N+ center", "rsmi": "[cH:1]1[cH:6][cH:12][c:11]([N+:9](=[CH2:10])[CH3:15])[cH:13][cH:7]1.[cH:2]1[n:3][c:8]([O-:5])[cH:16][cH:4][cH:14]1>>[cH:1]1[cH:6][cH:12][c:11]([N:9]([CH2:10][n:3]2[cH:2][cH:14][cH:4][cH:16][c:8]2=[O:5])[CH3:15])[cH:13][cH:7]1", "epd": [["Pi-/Sigma+", [2, 3], [3, 10]], ["LP-/Pi+", [5], [5, 8]], ["Pi-/LP+", [9, 10], [9]], ["Pi-/Pi+", [4, 14], [2, 14]], ["Pi-/Pi+", [8, 16], [4, 16]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[CH3:2][C:7](=[C:3]=[N-:8])[c:9]1[cH:14][cH:16][cH:20][cH:17][cH:15]1.[c:1]12[c:13]([n:5][o:22][n+:21]1[O-:4])[n:12][c:10]([O:18][CH3:11])[n:6][cH:19]2>>[c:1]12[c:13]([n:5][o:22][n+:21]1[O-:4])[N:12]=[C:10]([O:18][CH3:11])[N-:6][CH:19]2[C:7]([CH3:2])([C:3]#[N:8])[c:9]1[cH:14][cH:16][cH:20][cH:17][cH:15]1", "epd": [["LP-/Pi+", [8], [3, 8]], ["Pi-/Sigma+", [7, 3], [7, 19]], ["Pi-/LP+", [19, 6], [6]]]}
{"reaction_name": "Addition to sulfonyl isocyanates", "rsmi": "[O:1]=[S:5](=[O:2])([N:16]=[C:13]=[O:19])[c:27]1[cH:8][cH:3][c:26]([CH3:28])[cH:4][cH:9]1.[c:6]1([S:20](=[O:23])(=[O:24])[CH-:29][c:12]2[cH:10][cH:21][cH:25][cH:22][cH:11]2)[cH:14][cH:17][cH:7][cH:18][cH:15]1>>[O:1]=[S:5](=[O:2])([N-:16][C:13](=[O:19])[CH:29]([c:12]1[cH:10][cH:21][cH:25][cH:22][cH:11]1)[S:20]([c:6]1[cH:14][cH:17][cH:7][cH:18][cH:15]1)(=[O:23])=[O:24])[c:27]1[cH:8][cH:3][c:26]([CH3:28])[cH:4][cH:9]1", "epd": [["LP-/Sigma+", [29], [29, 13]], ["Pi-/LP+", [13, 16], [16]]]}
{"reaction_name": "Imidazolium alkylation", "rsmi": "[CH3:2][Br:7].[cH:1]1[n:5][cH:3][n:4]([CH3:8])[cH:6]1>>[Br-:7].[cH:1]1[n+:5]([CH3:2])[cH:3][n:4]([CH3:8])[cH:6]1", "epd": [["LP-/Sigma+", [5], [2, 5]], ["Sigma-/LP+", [2, 7], [7]]]}
{"reaction_name": "Addition to sulfonyl isocyanates", "rsmi": "[CH3:6][CH:14]([CH3:7])[N+:19]1=[N:20][N:18]([CH:8]([CH3:21])[CH3:22])[C:23](=[CH2:17])[C-:9]1[C:12]([CH3:25])([CH3:26])[CH3:27].[O:1]=[S:5](=[O:2])([N:15]=[C:13]=[O:16])[c:28]1[cH:10][cH:3][c:24]([CH3:29])[cH:4][cH:11]1>>[O:1]=[S:5](=[O:2])([N-:15][C:13](=[O:16])[CH2:17][c:23]1[c:9]([C:12]([CH3:25])([CH3:26])[CH3:27])[n+:19]([CH:14]([CH3:6])[CH3:7])[n:20][n:18]1[CH:8]([CH3:21])[CH3:22])[c:28]1[cH:10][cH:3][c:24]([CH3:29])[cH:4][cH:11]1", "epd": [["LP-/Pi+", [9], [23, 9]], ["Pi-/Sigma+", [17, 23], [17, 13]], ["Pi-/LP+", [13, 15], [15]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[O-:3][c:5]1[cH:20][cH:16][c:18]([CH3:12])[cH:17][cH:21]1.[n:1]1[n:2][c:22]2[n:7]([cH:9][c:19]([N+:6](=[O:4])[O-:14])[cH:13][c:10]2[N+:11](=[O:8])[O-:23])[n:15]1>>[n:1]1[n:2][c:22]2[n:7]([n:15]1)[CH:9]([O:3][c:5]1[cH:20][cH:16][c:18]([CH3:12])[cH:17][cH:21]1)[C:19](=[N+:6]([O-:4])[O-:14])[CH:13]=[C:10]2[N+:11](=[O:8])[O-:23]", "epd": [["LP-/Sigma+", [3], [3, 9]], ["Pi-/Pi+", [9, 19], [19, 6]], ["Pi-/LP+", [6, 4], [4]]]}
